US04379923
1.78 g (10 mmoles) of 1-phenyl-5-mercapto-1H-tetrazole was silylated with 2.6 ml of hexamethyldisilazane (12.4 mmoles) in 50 ml of 1,2-dichloroethane at reflux with the reaction being catalyzed with 5 mg (0.03 mmole) of saccharin and the calculated amount of ammonia had been evolved after 20 minutes. After refluxing had been continued for another 10 minutes, the solvent and excess hexamethyldisilazane were evaporated. The residue was vacuum dried at room temperature to obtain 2.58 g (108%) of 1-phenyl-5-trimethylsilylthio-1H-tetrazole melting at 67°-68° C.

reactant | 1-phenyl-5-mercapto-1H-tetrazole | 10 mmoles, 1.78 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | hexamethyldisilazane | 12.4 mmoles, 2.6 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
catalyst | saccharin | 0.03 mmole, 5 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
product | 1-phenyl-5-trimethylsilylthio-1H-tetrazole | 2.58 g, 108% | C1(=CC=CC=C1)N1N=NN=C1S[Si](C)(C)C | C10H14N4SSi
